US06034239
2-(1,6,7,8-Tetrahydro-2H-indeno[5,4-b]furan-8-yl)ethylamine hydrobromide.
Raney nickel (0.4 g, W2) and 4 M ammonia/ethanol solution (10 ml) were added to an ethanol (30 ml) suspension of (E)-(4-bromo-1,6,7,8-tetrahydro-2H-indeno[5,4-b]furan-8-ylidene)acetonitrile (0.44 g, 1.59 mmols) and stirred in a hydrogen atmosphere (at from 4 to 5 atmospheres) at room temperature for 5 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethanol (50 ml), and 5% palladium-carbon (1 g, containing 50% water) was added thereto and stirred in a hydrogen atmosphere (at ordinary pressure) at room temperature for 4 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to obtain 0.42 g (yield: 93%) of the target compound. This was amorphous.

reactant | ammonia ethanol | 4 M, 10 ml | N.C(C)O
reactant | (E)-(4-bromo-1,6,7,8-tetrahydro-2H-indeno[5,4-b]furan-8-ylidene)acetonitrile | 1.59 mmols, 0.44 g | BrC1=CC=2CC/C(/C2C2=C1OCC2)=C\C#N | C13H10BrNO
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 0.4 g | [Ni] | Ni
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(1,6,7,8-Tetrahydro-2H-indeno[5,4-b]furan-8-yl)ethylamine hydrobromide | 0.42 g, yield: 93% | Br.C1C2=C(OC1)C=CC=1CCC(C12)CCN | InChI=1S/C13H17NO.BrH/c14-7-5-10-2-1-9-3-4-12-11(13(9)10)6-8-15-12;/h3-4,10H,1-2,5-8,14H2;1H
